US05137901
The mixture of 100.7 g (0.43 mol) 8-methoxy-2-chromancarboxylic acid ethyl ester and 20.1 g (0.50 mol) sodium hydroxide in 800 ml ethanol was stirred for 24 h at 20°. After evaporation, the residue was treated with water and extracted with diethyl ether. The aqueous phase was acidified and then extracted with diethylether. Usual work-up yielded 95.2 g of crystalline 8-methoxychroman-2-carboxylic acid.

reactant | 8-methoxy-2-chromancarboxylic acid ethyl ester | 0.43 mol, 100.7 g | C(C)OC(=O)C1OC2=C(C=CC=C2CC1)OC | C13H16O4
reactant | sodium hydroxide | 0.50 mol, 20.1 g | [OH-].[Na+]
solvent | ethanol | 800 ml | C(C)O | C2H6O
product | 8-methoxychroman-2-carboxylic acid | 95.2 g | COC=1C=CC=C2CCC(OC12)C(=O)O | C11H12O4
